US05763463
9.6 g of 3-chloro-4-cyanopyridine was dissolved in 70 ml of dichloromethane. Then, 23.2 g of a 31% hydrogen peroxide aqueous solution and 16.0 g of trifluoroacetic acid were added thereto, and the mixture was stirred overnight at room temperature. After completion of the reaction, the reaction solution was extracted with dichloromethane. The organic layer was washed sequentially with an aqueous sodium hydrogen carbonate solution and an aqueous sodium hydrogen sulfite solution and the dried over anhydrous magnesium sulfate. Then, dichloromethane was distilled off under reduced pressure. The obtained residue was washed with isopropyl ether to obtain 7.2 g of 3-chloro-4-cyanopyridine N-oxide as a white powder (melting point: 172° to 174° C.). Then, 20 ml of phosphorus oxychloride was added to this 3-chloro-4-cyanopyridine N-oxide, and the mixture was refluxed under heating for 5 hours. After cooling, the reaction solution was gradually poured into an aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. Then, ethyl acetate was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (developing solvent: n-hexane/ethyl acetate) to obtain 3.2 g of 4-cyano-2,5-dichloropyridine (melting point: 55° to 58° C.) and 2.5 g of 4-cyano-2,3-dichloropyridine (melting point: 65° to 69° C.).

reactant | 3-chloro-4-cyanopyridine | 9.6 g | ClC=1C=NC=CC1C#N | C6H3ClN2
reactant | hydrogen peroxide | OO | H2O2
reactant | trifluoroacetic acid | 16.0 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3-chloro-4-cyanopyridine N-oxide | 7.2 g | ClC=1C=[N+](C=CC1C#N)[O-] | C6H3ClN2O
